US04391808
To the solution of 0.2 g of 5-(4-carboethoxypiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine in 2 ml of dry tetrahydrofuran, 100 mg of lithium aluminum hydride are added at once and the mixture is refluxed under nitrogen for 48 hrs. The mixture is cooled to room temperature, stirred with 0.2 ml of 30% sodium hydroxide, and filtered. The filtrates were evaporated to dryness and the product is purified to give 5-(4-methylpiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine, melting at 145°-7°, and identical to compound obtained in example 1.

reactant | 5-(4-carboethoxypiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine | 0.2 g | C(=O)(OCC)N1CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2 | C17H19N5O2S
reactant | lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-(4-methylpiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine | CN1CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2 | C15H17N5S
